US06251894B1
A mixture of (±)-1-(3,5-dimethylbenzoyl)-2-(phenylmethyl)-4-piperidinone (2.5 g) and 6,11-dihydro-11-(4-piperidinylidene)-5H-imidazo[2,1-b][3]benzazepine (2.1 g) in methanol (150 ml) and a solution of thiophene (4%; 1 ml) was hydrogenated at 50° C. overnight with palladium on activated carbon (10%; 2 g) as a catalyst. After uptake of hydrogen, the catalyst was filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/ (CH3OH/ NH3) 98/2 to 95/5). The desired fraction was collected, the solvent evaporated, yielding 0.54 g (12.3%) of (±)-cis-4-[4-(5,6-dihydro-11H-imidazo [2,1-b][3]benzazepin-11-ylidene)-1-piperidinyl]-1-(3,5-dimethylbenzoyl)-2-(phenylmethyl)piperidine (comp. 1; mp. 138.7° C.).

reactant | (±)-1-(3,5-dimethylbenzoyl)-2-(phenylmethyl)-4-piperidinone | 2.5 g | CC=1C=C(C(=O)N2C(CC(CC2)=O)CC2=CC=CC=C2)C=C(C1)C | C21H23NO2
reactant | 6,11-dihydro-11-(4-piperidinylidene)-5H-imidazo[2,1-b][3]benzazepine | 2.1 g | N1CCC(CC1)=C1C=2N(CCC3=C1C=CC=C3)C=CN2 | C17H19N3
reactant | thiophene | 1 ml | S1C=CC=C1 | C4H4S
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on activated carbon | 2 g | [Pd] | Pd
product | (±)-cis-4-[4-(5,6-dihydro-11H-imidazo [2,1-b][3]benzazepin-11-ylidene)-1-piperidinyl]-1-(3,5-dimethylbenzoyl)-2-(phenylmethyl)piperidine | 0.54 g, 12.3% | N=1C=CN2C1C(C1=C(CC2)C=CC=C1)=C1CCN(CC1)[C@@H]1C[C@@H](N(CC1)C(C1=CC(=CC(=C1)C)C)=O)CC1=CC=CC=C1 | C38H42N4O
